US06949579B2
The process is performed as in Example 75, starting with 500 mg of 2-chloro-N-(6-chloro-1H-indazol-3-yl)acetamide, 15 cm3 of acetonitrile and 0.67 cm3 of benzylamine. The reaction medium is refluxed for 1 hour and the precipitate formed is filtered off, washed with 5 cm3 of acetonitrile and 5 cm3 of methylene chloride, then purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 2.5 cm), eluting with a methylene chloride/methanol/aqueous ammonia mixture (97/2.5/0.25 by volume). The fractions containing the expected product are combined and the residue is taken up in 20 cm3 of diisopropyl ether, filtered off and dried under reduced pressure (90 Pa; 45° C.) to give 305 mg of 2-[(phenylmethyl)amino]-N-(6-chloro-1H-indazol-3-yl)acetamide in the form of a white powder melting at 156° C.

reactant | 2-chloro-N-(6-chloro-1H-indazol-3-yl)acetamide | 500 mg | ClCC(=O)NC1=NNC2=CC(=CC=C12)Cl | C9H7Cl2N3O
reactant | benzylamine | 0.67 cm3 | C(C1=CC=CC=C1)N | C7H9N
solvent | acetonitrile | 15 cm3 | C(C)#N | C2H3N
product | 2-[(phenylmethyl)amino]-N-(6-chloro-1H-indazol-3-yl)acetamide | 305 mg | C1(=CC=CC=C1)CNCC(=O)NC1=NNC2=CC(=CC=C12)Cl | C16H15ClN4O
